US03941745
6(3',5'-di-t-butyl-4'-hydroxyphenyl)-2,4-dichloro-1,3,5-triazine
To 18.35 g of cyanuric chloride dissolved in dioxane at 5°C was added 22.83 g of sodium 2,6-di-t-butylphenoxide over a period of 10 to 15 minutes. The reaction was maintained below 10°C for 1 hour after which it was warmed to room temperature and filtered to remove precipitated salt. The filtrate was concentrated to dryness under reduced pressure. The product was recrystallized from petroleum ether and had a melting point of 178°-179°C.

reactant | cyanuric chloride | 18.35 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium 2,6-di-t-butylphenoxide | 22.83 g | C(C)(C)(C)C1=C([O-])C(=CC=C1)C(C)(C)C.[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6(3',5'-di-t-butyl-4'-hydroxyphenyl)-2,4-dichloro-1,3,5-triazine | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NC(=NC(=N1)Cl)Cl | C17H21Cl2N3O
